US05545652
60% Sodium hydride in oil (2.4 g) was added portionwise to a stirred solution of 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone (16.6 g) and the resulting mixture was stirred for 30 minutes at room temperature. (2R,3S)-2-(2,4-Difluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyloxirane (10 g) was added and the mixture was stirred at 80° C. for 20 hours. After cooling, the mixture was concentrated into a volume of about 50 ml under reduced pressure and diluted ice-water (400 ml) and ethyl acetate (500 ml). The ethyl acetate layer was separated, washed with a 10% aqueous phosphoric acid solution (400 ml) and an aqueous solution of sodium chloride (400 ml×2) successively and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/1 to 2/1) to give 1-[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone (7.56 g) as an oily substance, which was identical with the compound obtained in the Reference Example 47.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 16.6 g | FC(C(F)F)(OC1=CC=C(C=C1)N1C(NC=C1)=O)F | C11H8F4N2O2
reactant | (2R,3S)-2-(2,4-Difluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyloxirane | 10 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
product | 1-[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 7.56 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OC(C(F)F)(F)F)=O)(CN1N=CN=C1)O | C23H19F6N5O3
